US04666915
Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate (40 g) and 2-aminophenol (22.4 g) are added to DMF (80 ml), and the mixture is heated with stirring at 110° C. for 18 hour. After cooling, the precipitate is collected by filtration and recrystallized from DMF to give ethyl 1,6-dihydro-2-(2-hydroxyanilino)-6-oxo-5-pyrimidinecarboxylate (29 g). M.p. 289°-291° C.

reactant | Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate | 40 g | CSC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3S
reactant | 2-aminophenol | 22.4 g | NC1=C(C=CC=C1)O | C6H7NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | ethyl 1,6-dihydro-2-(2-hydroxyanilino)-6-oxo-5-pyrimidinecarboxylate | 29 g | OC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C13H13N3O4
